US07888349B2
Under a nitrogen atmosphere, a solution of tert-butyl 2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate (54.94 g, 152.3 mmol) in THF (400 mL) was cooled to 0° C.; a solution of potassium tert-butoxide (18.79 g of a 1 M solution in THF, 167.5 mmol) was added slowly. The reaction was stirred at 0° C. for three hours and then at ambient temperature overnight. The THF was removed under reduced pressure, and a 1:1 mixture of water and saturated aqueous sodium bicarbonate was added. The aqueous mixture was extracted with dichloromethane, and the combined extracts were washed sequentially with water and brine and concentrated under reduced pressure to provide 29.54 g of tert-butyl 10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate.

reactant | tert-butyl 2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate | 152.3 mmol, 54.94 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCNC(OC(C)(C)C)=O | C18H21ClN4O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | tert-butyl 10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate | 29.54 g | C1=C2C3=C(C=NC2=CC=C1)N=C1N3CCN(C1)C(=O)OC(C)(C)C | C18H20N4O2
